US05283355
Preparation of 2,3,5-trichloro-6-(but-2-oxy)-benzo-1,4-quinone
Chloranil (12.3 parts) was dissolved in MEK (300 parts) before adding sodium hydrogen carbonate (8 parts). Aqueous butan-2-ol (50 parts, 1:1) was then added and the mixture was stirred at room temperature until no starting material remained. At the end of the reaction the filtered solution was shown by HPLC to contain 86% title product. The product was used in subsequent reactions without isolation.

reactant | Chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | butan-2-ol | CC(CC)O | C4H10O
solvent | MEK | CCC(=O)C | C4H8O
product | 2,3,5-trichloro-6-(but-2-oxy)-benzo-1,4-quinone | 86% | ClC=1C(=O)C(=C(C(C1Cl)=O)Cl)OC(C)CC | C10H9Cl3O3
